US07452911B2
3.24c 1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-4-methyl-[1,4]diazepan
Prepared according to general working method I from 1-(5-iodo-pyridin-2-yl)-4-methyl-[1,4]diazepan (237 mg, 0.75 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (161 mg, 0.75 mmol).

reactant | 1-(5-iodo-pyridin-2-yl)-4-methyl-[1,4]diazepan | 0.75 mmol, 237 mg | IC=1C=CC(=NC1)N1CCN(CCC1)C | C11H16IN3
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.75 mmol, 161 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 1-{5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-pyridin-2-yl}-4-methyl-[1,4]diazepan | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=NC1)N1CCN(CCC1)C | C24H23ClN4
